US05472933
Methyl 3-[[(1,1-dimethylethyl)amino]sulfonyl]-1-methyl-1H-pyrrole-2-carboxylate
To a solution of 1 g (4.62 mmol) of N-(1,1-dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide in 150 mL THF under a nitrogen atmosphere cooled to -78° C. was added dropwise at such a rate as to keep the temperature below -65° C. 4.1 mL (9.48 mmol) 2.32M n-butyllithium in hexanes. The resulting amber turbid solution was stirred at -78° C. for ca. 30 minutes. Methyl chloroformate (0.37 mL, 4.86 mmol) was added in one portion and the resulting gold reaction mixture was allowed to warm to room temperature and stirred for ca. 1.5 hours. The gold reaction mixture was cooled to 0° C. and acidified with 1N HCl. The THF phase was separated washed with brine, dried (MgSO4) and concentrated to an amber oil. The NMR of the crude reaction product was consistent with the title compound, additionally the NMR indicated that a trace of the starting material was also present. The crude material was combined with the product from a similar reaction run on the scale described below and chromatographed to give the title compound.

reactant | N-(1,1-dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide | 4.62 mmol, 1 g | CC(C)(C)NS(=O)(=O)C1=CN(C=C1)C | C9H16N2O2S
reactant | n-butyllithium | 9.48 mmol, 2.32M, 4.1 mL | C(CCC)[Li]
reactant | Methyl chloroformate | 4.86 mmol, 0.37 mL | ClC(=O)OC | C2H3ClO2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | gold | [Au] | Au
product | Methyl 3-[[(1,1-dimethylethyl)amino]sulfonyl]-1-methyl-1H-pyrrole-2-carboxylate | CC(C)(C)NS(=O)(=O)C1=C(N(C=C1)C)C(=O)OC | C11H18N2O4S
